* tb_pnp_mismatch.spice -- sky130 substrate-PNP local-mismatch Monte Carlo (issue #31)
*
* Device-level offset-budget input: sigma of dVBE across a matched PNP pair,
* the term the untrimmed-accuracy budget for the error amplifier (#9) hangs
* on. This is the sky130 counterpart of gf180-bandgap's
* sim/device-pnp-mismatch/ and is deliberately NOT run through
* sim/bin/corner-run.py: that runner drives one deterministic .op per PVT
* point and has no notion of resampling a deck N times, which is exactly what
* a local-mismatch claim needs. Driven instead by
* sim/pnp-mismatch/run_pnp_mismatch.py.
*
* ---------------------------------------------------------------------------
* sky130 mismatch mechanism (verified against the pinned PDK, not assumed)
* ---------------------------------------------------------------------------
* gf180mcu's convention (sw_stat_mismatch gating mis_is_pnp_* / mis_bf_pnp_*)
* does NOT carry over. In sky130A the per-instance mismatch terms live inside
* the device subcircuits in
* libs.tech/combined/continuous/models_bjt.spice:
*
*   .subckt sky130_fd_pr__pnp_05v5_W0p68L0p68 c b e mult=1
*   .param mm_bf = {sw_mm_sky130_fd_pr__pnp_05v5_W0p68L0p68_bf
*                   * mismatch_factor * MC_MM_SWITCH * AGAUSS(0,1.0,1)/sqrt(mult)}
*          mm_is = {sw_mm_sky130_fd_pr__pnp_05v5_W0p68L0p68_is
*                   * mismatch_factor * MC_MM_SWITCH * AGAUSS(0,1.0,1)/sqrt(mult)}
*   ... is = '1.5075e-018*dkispp / sw_func_rdp*(1+mm_is)'
*       bf = '19.35*dkbfpp*sw_nw_rs_mult**0.75*(1+mm_bf)'
*       ise = '9.4936e-017*(1-mm_bf)'   vaf = '152.06 / sw_nw_rs_mult*(1-mm_bf)'
*       xti = {1.1*(1+mm_is)}
*
* The sigmas themselves are in continuous/models_global.spice:
*   sw_mm_sky130_fd_pr__pnp_05v5_W0p68L0p68_is = 1.662e-02   (1.662 % on Is)
*   sw_mm_sky130_fd_pr__pnp_05v5_W0p68L0p68_bf = 5.537e-02   (5.537 % on Bf)
* The W3p40L3p40 (large) subcircuit reuses the same two coefficients scaled by
* 0.13 (is) and 0.45 (bf) -- the area-matching benefit of the 25x larger
* emitter, already in the PDK model.
*
* The gate is MC_MM_SWITCH, and it is *not* settable from the deck: every
* plain corner section of libs.tech/combined/sky130.lib.spice sets
* `.param MC_MM_SWITCH=0`, and only the `*_mm` sections (tt_mm, ss_mm, ...)
* set it to 1. The section name is therefore the switch. The run script
* selects `tt_mm` for the mismatch points and `tt` for the control point
* (which must return sigma == 0 exactly -- the falsification check against a
* silently no-op mismatch setup).
*
* MC_PR_SWITCH (global process Monte Carlo, the `mc` section) stays 0: this
* record is local mismatch only, see the process-axis note below.
*
* AGAUSS() is evaluated per subcircuit *instance*, so two instantiations of
* the same subcircuit already draw independently -- no per-device parameter
* plumbing is needed. ngspice re-draws on `reset`, which is what makes the
* control loop below a genuine Monte Carlo; `setseed` makes it reproducible.
*
* ---------------------------------------------------------------------------
* Topology
* ---------------------------------------------------------------------------
* Every DUT is diode-connected the way a bandgap core uses a sky130 substrate
* PNP: collector (the p-substrate) and base (the nwell) grounded, emitter
* driven by an ideal current source, so VEB = v(emitter). Subcircuit pin
* order is (c b e), hence `X<name> 0 0 <emitter-node>`.
*
* NOTE, and read this before comparing absolute volts against
* sim/pnp-characterization: that experiment's xschem netlist
* (`XQS0 E_small_100n 0 0 sky130_fd_pr__pnp_05v5_W0p68L0p68`) lands the driven
* node on pin 1 = `c`, i.e. it biases the collector with the emitter grounded,
* which measures the base-collector junction rather than the emitter-base one.
* Reproduced exactly at tt/27 C/1 uA: collector-driven gives 0.545166 V
* (matching that record's `veb_small_1u = 0.545166 V`), emitter-driven gives
* 0.742539 V. This testbench uses the emitter-driven connection because that
* is the connection a bandgap core actually has. See the record for the full
* note; correcting sim/pnp-characterization is out of scope for issue #31.
*
* Two pairs, each at two bias currents (1 uA and 10 uA -- both are rungs of
* sim/pnp-characterization's 100 nA..100 uA half-decade ladder and they
* bracket the 2/5/20 uA per-branch range sim/mos-matching-characterization
* uses for the < 50 uA total Iq budget; they are also the two biases
* gf180-bandgap's mismatch record used, so the two repos compare directly):
*   (a) identical pair: two W0p68L0p68 devices at equal emitter current --
*       the pair offset any amplifier input or mirror built from this unit
*       device sees.
*   (b) area-ratioed pair: W0p68L0p68 / W3p40L3p40 at equal emitter current --
*       the PTAT pair itself, so sigma(dVBE) here is directly comparable to
*       the dVBE *signal* the same legs produce (reported as the sample mean).
*
* No supply rail exists in this deck: every DUT is referred to its own
* emitter node and biased by an ideal current source. The +/-10 % supply axis
* of the CLAUDE.md PVT matrix has nothing to sweep -- stated in the record as
* the explicit subset justification (same justification
* sim/pnp-characterization already records).
*
* Process axis: nominal only (`tt_mm`), deliberately not stacked on
* tt/ss/ff/sf/fs. Local mismatch is intra-die variation; running it on top of
* every global corner would double-count the global spread
* sim/pnp-characterization's 15-point matrix already records. Also stated
* inline in the record (this deck does not go through corner-run.py, so there
* is no --subset-reason flag to carry it).
*
* ---------------------------------------------------------------------------
* Inputs supplied by the run script (this deck is not standalone)
* ---------------------------------------------------------------------------
*   corner.spice  -- generated: `.lib <sky130.lib.spice> <section>` + `.temp`
*   $mc_seed      -- ngspice variable, set from the generated .spiceinit
*   $mc_runs      -- ngspice variable, set from the generated .spiceinit
* The defaults below apply only if the deck is driven by hand.

.include corner.spice

* ---- identical pair: W0p68L0p68 x2, 1 uA ----
Ia1a 0 ea1a 1u
XA1a 0 0 ea1a sky130_fd_pr__pnp_05v5_W0p68L0p68
Ia1b 0 ea1b 1u
XA1b 0 0 ea1b sky130_fd_pr__pnp_05v5_W0p68L0p68

* ---- identical pair: W0p68L0p68 x2, 10 uA ----
Ia10a 0 ea10a 10u
XA10a 0 0 ea10a sky130_fd_pr__pnp_05v5_W0p68L0p68
Ia10b 0 ea10b 10u
XA10b 0 0 ea10b sky130_fd_pr__pnp_05v5_W0p68L0p68

* ---- area-ratioed pair: W0p68L0p68 / W3p40L3p40, 1 uA ----
Ir1a 0 er1a 1u
XR1a 0 0 er1a sky130_fd_pr__pnp_05v5_W0p68L0p68
Ir1b 0 er1b 1u
XR1b 0 0 er1b sky130_fd_pr__pnp_05v5_W3p40L3p40

* ---- area-ratioed pair: W0p68L0p68 / W3p40L3p40, 10 uA ----
Ir10a 0 er10a 10u
XR10a 0 0 er10a sky130_fd_pr__pnp_05v5_W0p68L0p68
Ir10b 0 er10b 10u
XR10b 0 0 er10b sky130_fd_pr__pnp_05v5_W3p40L3p40

.control
if $?mc_seed
  setseed $mc_seed
else
  setseed 20260731
end
if $?mc_runs
  let nruns = $mc_runs
else
  let nruns = 300
end
set width  = 512
set height = 100000
let run = 0
dowhile run < nruns
  reset
  op
  let da1   = v(ea1a)  - v(ea1b)
  let da10  = v(ea10a) - v(ea10b)
  let dr1   = v(er1a)  - v(er1b)
  let dr10  = v(er10a) - v(er10b)
  let vr1a  = v(er1a)
  let vr1b  = v(er1b)
  let vr10a = v(er10a)
  let vr10b = v(er10b)
  print da1 da10 dr1 dr10 vr1a vr1b vr10a vr10b
  let run = run + 1
end
quit
.endc

.end
